US09169254B2
10% Pd—C (28 mg) was added to a solution of 2-cyclohexyl-8-[(E)-2-(2-oxo-2,3-dihydro-benzoxazol-7-yl)-ethenesulfonyl]-1,3,8-triaza-spiro[4.5]dec-1-en-4-one (56.6 mg, 0.123 mmol) in MeOH-DMF (4 ml, 1:1). The mixture was stirred at room temperature overnight in a hydrogen atmosphere. The reaction mixture was filtered through celite, and the filtrate was then concentrated under reduced pressure. The resulting residue was diluted with ethyl acetate, and the organic layer was then washed with water (×2), dried over anhydrous Na2SO4 and concentrated under reduced pressure. The residue was purified by column chromatography (silica gel, AcOEt-hexane) to give 2-cyclohexyl-8-[2-(2-oxo-2,3-dihydro-benzoxazol-7-yl)-ethanesulfonyl]-1,3,8-triaza-spiro[4.5]dec-1-en-4-one as a colorless foam (46.9 mg, 83%).

reactant | 2-cyclohexyl-8-[(E)-2-(2-oxo-2,3-dihydro-benzoxazol-7-yl)-ethenesulfonyl]-1,3,8-triaza-spiro[4.5]dec-1-en-4-one | 0.123 mmol, 56.6 mg | C1(CCCCC1)C1=NC2(C(N1)=O)CCN(CC2)S(=O)(=O)\C=C\C2=CC=CC=1NC(OC12)=O | C22H26N4O5S
reactant | hydrogen | [H][H] | H2
solvent | MeOH DMF | 4 ml | CO.CN(C)C=O
catalyst | Pd—C | 28 mg | [Pd] | Pd
product | 2-cyclohexyl-8-[2-(2-oxo-2,3-dihydro-benzoxazol-7-yl)-ethanesulfonyl]-1,3,8-triaza-spiro[4.5]dec-1-en-4-one | 46.9 mg, 83% | C1(CCCCC1)C1=NC2(C(N1)=O)CCN(CC2)S(=O)(=O)CCC2=CC=CC=1NC(OC12)=O | C22H28N4O5S
